US05151497
L-Phenylalanyl-L-prolinamide hydrobromide (480 mg) was dissolved in DMF (3 ml), to which was added triethylamine (0.29 ml) under cooling at -10° C. The mixture was stirred for 10 minutes under ice-cooling and the resultant precipitate was filtered off to give L-phenylalanyl-L-prolinamide in DMF solution, which was immediately used for the next reaction.

reactant | L-Phenylalanyl-L-prolinamide hydrobromide | 480 mg | Br.N[C@@H](CC1=CC=CC=C1)C(=O)N1[C@H](C(=O)N)CCC1
reactant | triethylamine | 0.29 ml | C(C)N(CC)CC | C6H15N
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | L-phenylalanyl-L-prolinamide | N[C@@H](CC1=CC=CC=C1)C(=O)N1[C@H](C(=O)N)CCC1 | C14H19N3O2
